US08981085B2
(R)-tert-Butyl 1-(3-(pyrazine-2-carboxamido)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.120 g, 0.237 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour. The reaction was then concentrated to dryness to give the crude product, which was purified C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 0-50% CH3CN/water gradient; 25 CV). The purified product was then dissolved in DCM (with minimal MeOH to aid solubility) and added dropwise to a stirring solution of 1M HCl in ether. The resulting solid was filtered, dried and collected to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrazine-2-carboxamide hydrochloride (0.071 g, 62% yield). 1H NMR (400 MHz, D2O) δ 8.84 (s, 1H), 8.59-8.59 (m, 1H), 8.52-8.52 (m, 1H), 8.31 (s, 1H), 7.79 (s, 1H), 3.62-3.54 (m, 1H), 3.37-3.33 (m, 1H), 3.00-2.92 (m, 3H), 2.04-2.01 (m, 1H), 1.85-1.72 (m, 1H), 1.71-1.66 (m, 1H), 1.50-1.40 (m, 1H); LCMS (APCI+) m/z 406 (M+H)+.

reactant | (R)-tert-Butyl 1-(3-(pyrazine-2-carboxamido)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.237 mmol, 0.120 g | N1=C(C=NC=C1)C(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)C(F)(F)F | C23H26F3N7O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrazine-2-carboxamide hydrochloride | 0.071 g, 62% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1C(F)(F)F)NC=C2NC(=O)C2=NC=CN=C2 | InChI=1S/C18H18F3N7O.ClH/c19-18(20,21)11-6-25-16-14(15(11)28-5-1-2-10(22)9-28)12(8-26-16)27-17(29)13-7-23-3-4-24-13;/h3-4,6-8,10H,1-2,5,9,22H2,(H,25,26)(H,27,29);1H/t10-;/m1./s1
